US04255426
Following the procedure of Example 5, 1-(2-hydroxy-3-n-hexadecyloxypropyl)-piperizine was reacted with 4-fluorobenzyl chloride to form 1-(4-fluorobenzyl)-4-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine, mp 242° C. (dec).

reactant | 1-(2-hydroxy-3-n-hexadecyloxypropyl)-piperizine | OC(CN1CCNCC1)COCCCCCCCCCCCCCCCC | C23H48N2O2
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
product | 1-(4-fluorobenzyl)-4-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine | FC1=CC=C(CN2CCN(CC2)CC(COCCCCCCCCCCCCCCCC)O)C=C1 | C30H53FN2O2
